US04245097
N-Carbobenzyloxy-4-(16-bromohexadecylamino)benzoyl chloride
To 15 g. 4-(16-bromohexadecylamino)benzoic acid in 200 ml. warm chloroform is added 15 g. sodium carbonate in 150 ml. water. To the vigorously stirred solution is added 10 g. carbobenzyloxy chloride. After 2 hours stirring at 40° C., the layers are separated, washed three times with 1 N hydrochloric acid dried, and evaporated to an oil. The oil is dissolved in 300 ml. toluene, treated with 15 ml. thionyl chloride and the solution is refluxed for 5 hours. The solvents are evaporated and the residue is dissolved three times in toluene, evaporating each time to yield a viscous, orange oil.

reactant | 4-(16-bromohexadecylamino)benzoic acid | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H38BrNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | O | H2O
product | N-Carbobenzyloxy-4-(16-bromohexadecylamino)benzoyl chloride | C(=O)(OCC1=CC=CC=C1)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCCBr | C31H43BrClNO3
